US04558046
2-amino-thiazole-5-carboxylic acid, methyl ester (5 g) was reacted with ethyl 4-chloro-acetoacetate (10.6 g) in polyphosphoric acid (25 g) under stirring at 100° C. for 4 hours. After cooling, dilution with ice water and neutralization with 35% NaOH, the precipitate was extracted with ethyl acetate and purified over a SiO2 column using n-hexane/ethyl acetate as eluent. Crystallization from isopropyl ether gave 7-chloromethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester, m.p. 139°-141° C. (2.75 g) which was reacted with triphenylphosphine (3.15 g) in acetonitrile (100 ml) under stirring at reflux temperature for 16 hours. After cooling the precipitate was filtered and washed with acetonitrile to give (2-carbomethoxy-5-oxo-5H-thiazolo[3,2-a]pyrimidine-7-yl)-methyl-triphenyl-phosphonium chloride, m.p. 180°-181° C., dec. (3.35 g) which was added under stirring to a suspension of 75% NaH (0.3 g) in dimethylsulphoxide (60 ml) and dichloroethane (40 ml) and reacted with 3-pyridine carboxaldehyde (1.4 g) at room temperature for 20 hours. The solution was then diluted with ice water and the crude precipitate was extracted with dichloroethane: the organic phase was separated and evaporated in vacuo to dryness. The crude residue was crystallized from isopropyl alcohol to give 7-trans-[2-(3-pyridyl)-ethenyl]-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester (1.3 g) which was hydrolyzed by treatment with a mixture 37% HCl: acetic acid=1:1 (50 ml) at the reflux temperature for 40 hours. After cooling the reaction mixture was diluted with ice water and neutralized with 37% NaOH: the precipitate was filtered and washed with water until neutral. Crystallization from CHCl3 -ethanol gave 0.87 g of 7-trans-[2-(3-pyridyl)-ethenyl]-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, m.p. 264°-267° C.,

reactant | 2-amino-thiazole-5-carboxylic acid, methyl ester | 5 g | NC=1SC(=CN1)C(=O)OC | C5H6N2O2S
reactant | ethyl 4-chloro-acetoacetate | 10.6 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
product | 7-chloromethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester | ClCC=1N=C2N(C(C1)=O)C=C(S2)C(=O)OC | C9H7ClN2O3S
